US08314103B2
2-Chloro-N-(6-cyanopyridin-3-yl)-2,2-difluoroacetamide
To a suspension of 5-amino-2-cyanopyridine (1.0 g, 8.4 mmol) in dry DMF (20 mL) was added sodium hydride (0.336 g, 8.4 mmol) slowly in small lots over a period of 15 minutes, followed by dropwise addition of 2-chloro-2,2-difluoroacetic anhydride (2.04 g, 8.4 mmol). The reaction mixture was stirred at room temperature for 24 hours. The reaction mixture was diluted with water (150 mL) and extracted with ethyl acetate (3×100 ml). The organic layer was washed with brine, dried over anhydrous sodium sulfate and was concentrated to obtain the title compound.

reactant | 5-amino-2-cyanopyridine | 8.4 mmol, 1.0 g | NC=1C=CC(=NC1)C#N | C6H5N3
reactant | sodium hydride | 8.4 mmol, 0.336 g | [H-].[Na+]
reactant | 2-chloro-2,2-difluoroacetic anhydride | 8.4 mmol, 2.04 g | ClC(C(=O)OC(C(Cl)(F)F)=O)(F)F | C4Cl2F4O3
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 150 mL | O | H2O
product | 2-Chloro-N-(6-cyanopyridin-3-yl)-2,2-difluoroacetamide | ClC(C(=O)NC=1C=NC(=CC1)C#N)(F)F | C8H4ClF2N3O
